US07732626B2
Methyl [(3S)-6-({3′-fluoro-2′,6′-dimethyl-4′-[3-(methylsulfonyl)propoxy]biphenyl-3-yl}methoxy)-2,3-dihydro-1-benzofuran-3-yl]acetate
A solution of methyl[(3S)-6-hydroxy-2,3-dihydro-1-benzofuran-3-yl]acetate (0.729 g, 3.50 mmol), {3′-fluoro-2′,6′-dimethyl-4′-[3-(methylsulfonyl)propoxy]biphenyl-3-yl}methanol (1.28 g, 3.50 mmol) and tributylphosphine (1.13 g, 5.60 mmol) in a mixed solvent of toluene (45 mL) and tetrahydrofuran (5 mL) was stirred, 1,1′-(azodicarbonyl)dipiperidine (1.41 g, 5.60 mmol) was added, and the mixture was stirred at room temperature for 4 hr under nitrogen atmosphere. Hexane (50 mL) was added to the reaction mixture, the precipitated insoluble substance was filtered off, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=40:60-80:20) and basic silica gel column chromatography (ethyl acetate:hexane=40:60-100:0), and the obtained crystals were recrystallized from heptane-ethyl acetate to give the title compound (1.50 g, yield 77%) as colorless crystals.

reactant | methyl[(3S)-6-hydroxy-2,3-dihydro-1-benzofuran-3-yl]acetate | 3.50 mmol, 0.729 g | COC(C[C@@H]1COC2=C1C=CC(=C2)O)=O | C11H12O4
reactant | {3′-fluoro-2′,6′-dimethyl-4′-[3-(methylsulfonyl)propoxy]biphenyl-3-yl}methanol | 3.50 mmol, 1.28 g | FC=1C(=C(C(=CC1OCCCS(=O)(=O)C)C)C1=CC(=CC=C1)CO)C | C19H23FO4S
reactant | tributylphosphine | 5.60 mmol, 1.13 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 5.60 mmol, 1.41 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | Hexane | 50 mL | CCCCCC | C6H14
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | toluene | 45 mL | C1(=CC=CC=C1)C | C7H8
product | Methyl [(3S)-6-({3′-fluoro-2′,6′-dimethyl-4′-[3-(methylsulfonyl)propoxy]biphenyl-3-yl}methoxy)-2,3-dihydro-1-benzofuran-3-yl]acetate | 1.50 g, yield 77% | FC=1C(=C(C(=CC1OCCCS(=O)(=O)C)C)C1=CC(=CC=C1)COC1=CC2=C([C@@H](CO2)CC(=O)OC)C=C1)C | C30H33FO7S
